US07186724B2
1-{2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-yl]-ethyl}-cyclopropanecarboxylic acid tert-butyl ester.
To a solution of 4.2 g (14.7 mmol) of 1-(6-trifluoromethyl-benzo[b]thiophen-3-yl)-piperazine in 100 mL of dichloromethane under nitrogen was added 3.5 g (19.1 mmol) of 1-(2-Oxo-ethyl)-cyclopropanecarboxylic acid tert-butyl ester. After stirring 10 minutes at room temperature 6.5 g (30.7 mmol) of sodium triacetoxyborohydride was added portion-wise. After 30 minutes 100 mL of 0.5 N aqueous sodium hydroxide was added and the reaction was stirred for 15 minutes. The organic layer was separated, dried and concentrated to deliver a paste. This was taken up in methanolic hydrogen chloride. The salt thus obtained was recrystallized from ethyl acetate/methanol to deliver 6.6 g (13.4 mmol) of the desired product as a white powder mp=187–9° C.

reactant | 1-(6-trifluoromethyl-benzo[b]thiophen-3-yl)-piperazine | 14.7 mmol, 4.2 g | FC(C=1C=CC2=C(SC=C2N2CCNCC2)C1)(F)F | C13H13F3N2S
reactant | 1-(2-Oxo-ethyl)-cyclopropanecarboxylic acid tert-butyl ester | 19.1 mmol, 3.5 g | C(C)(C)(C)OC(=O)C1(CC1)CC=O | C10H16O3
reactant | sodium triacetoxyborohydride | 30.7 mmol, 6.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 0.5 N, 100 mL | [OH-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-{2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-yl]-ethyl}-cyclopropanecarboxylic acid tert-butyl ester | 13.4 mmol, 6.6 g | C(C)(C)(C)OC(=O)C1(CC1)CCN1CCN(CC1)C=1C2=C(SC1)C=C(C=C2)C(F)(F)F | C23H29F3N2O2S
